US05116995
A mixture of 13.24 g of ethyl indole-4-carboxylate, 15.98 g of acetonylacetone and 13.31 g of p-toluenesulfonic acid monohydrate in 50 ml of ethanol was refluxed for 10 hours. The ethanol was evaporated under reduced pressure, the residue was chromatographed on silica gel column with hexane - ethyl acetate (9 : 1) to give 7.45 g of ethyl 5,8-dimethylcarbazole-4-carboxylate.

reactant | ethyl indole-4-carboxylate | 13.24 g | N1C=CC=2C(=CC=CC12)C(=O)OCC | C11H11NO2
reactant | acetonylacetone | 15.98 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | p-toluenesulfonic acid monohydrate | 13.31 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5,8-dimethylcarbazole-4-carboxylate | 7.45 g | CC1=C2C=3C(=CC=CC3NC2=C(C=C1)C)C(=O)OCC | C17H17NO2
